US06288082B1
7-(2-Dimethylaminoethoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile
A mixture of 0.67 g (1 equivalent) of 7-(2-chloroethoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile, 0.097 g (0.4 equivalent) of sodium iodide and 15 ml of 2M dimethylamine in tetrahydrofuran was heated at 135° C. for 14 hours in a sealed tube. The reaction mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate, the organic layer was dried over magnesium sulfate and concentrated to give 0.50 g. The crude product was purified by chromatography (Silica Gel: ethyl acetate, ethyl acetate/methyl alcohol/triethylamine 6:4:0.1) to give 0.312 g (46%) of pure product. MP 218-219° C. mass spectrum (electrospray m/e): M+H=402.9.

reactant | 7-(2-chloroethoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile | 0.67 g, 1 equivalent | ClCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C2C=NNC2=C1)OC | C20H16ClN5O2
reactant | sodium iodide | 0.097 g, 0.4 equivalent | [I-].[Na+]
reactant | dimethylamine | 2M, 15 ml | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-Dimethylaminoethoxy)-4-(1H-indazol-6-ylamino)-6-methoxyquinoline-3-carbonitrile | 0.312 g, 46% | CN(CCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C2C=NNC2=C1)OC)C | C22H22N6O2
